US07041824B2
Stage 1: 4-[(2-chloro-9H-purin-6-yl]amino]-N-phenylbenzamide
The procedure is carried out as in Example 1, starting with 195 mg of 2,6-dichloropurine, 5 ml of butanol and 272 mg of 4-amino-N-phenylbenzamide. 360 mg of the expected product are thus obtained.

reactant | 2,6-dichloropurine | 195 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 4-amino-N-phenylbenzamide | 272 mg | NC1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C13H12N2O
solvent | butanol | 5 ml | C(CCC)O | C4H10O
product | 4-[(2-chloro-9H-purin-6-yl]amino]-N-phenylbenzamide | 360 mg | ClC1=NC(=C2N=CNC2=N1)NC1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C18H13ClN6O
